US06653313B2
B. Dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-(2-{2-[2-(2-oxo-1-pyrrolidinyl)ethoxy]phenyl}ethyl)-1,4-dihydro-3,5-pyridinedicarboxylate
To a solution of dimethyl 4-(2,6-dichlorophenyl)-2-[2-(2-hydroxyphenyl)ethyl]-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate (1.07 g/2.0 mmol) in benzene (35 ml) was added 1,1′-(azodicarbonyl)dipiperidine (1.01 g/4.0 mmol), tributylphosphine (809 mg/4.0 mmol), 1-(2-hydroxyethyl)-2-pyrrolidinone (2.58 g/20 mmol), and the resulting solution was stirred for 16 hours at room temperature. The solvent was evaporated. The residue was purified by column chromatography (SiO2, 200-350 mesh/hexane:ethyl acetate=1:1) to afford a yellow oil (450 mg/35%).

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-[2-(2-hydroxyphenyl)ethyl]-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | 2.0 mmol, 1.07 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CC(=O)OC)CCC1=C(C=CC=C1)O)C(=O)OC | C26H25Cl2NO7
reactant | 1,1′-(azodicarbonyl)dipiperidine | 4.0 mmol, 1.01 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 4.0 mmol, 809 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1-(2-hydroxyethyl)-2-pyrrolidinone | 20 mmol, 2.58 g | OCCN1C(CCC1)=O | C6H11NO2
solvent | benzene | 35 ml | C1=CC=CC=C1 | C6H6
product | Dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-(2-{2-[2-(2-oxo-1-pyrrolidinyl)ethoxy]phenyl}ethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)OCCN1C(CCC1)=O)CC(=O)OC)C(=O)OC | C32H34Cl2N2O8
